US06294558B1
3-(4-Bromophenyl)-4-[3-fluoro-4-(methylsulfonyl)phenyl]-2(5H)-furanone. (step 1)
The title compound was prepared according to the procedure of Example 32 using 2-bromo-1-[3-fluoro-4-(methylsulfonyl)phenyl]ethanone (Lalezari, Iradj et al., J. Chem. Eng. Data, 11, 619 (1966)) instead of 2-bromo-1-[4-(methylsulfonyl)phenyl]ethanone, 4-bromophenylacetic acid instead of 4-(3-thienyl)phenylacetic acid.

reactant | 2-bromo-1-[3-fluoro-4-(methylsulfonyl)phenyl]ethanone | BrCC(=O)C1=CC(=C(C=C1)S(=O)(=O)C)F | C9H8BrFO3S
reactant | 4-bromophenylacetic acid | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
product | 3-(4-Bromophenyl)-4-[3-fluoro-4-(methylsulfonyl)phenyl]-2(5H)-furanone | BrC1=CC=C(C=C1)C=1C(OCC1C1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C17H12BrFO4S
